US07375134B2
Synthesis of (2S) 2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide
The title compound was prepared by the coupling of (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid with 1-aminocyclopropanecarbonitrile in the presence of HATU and diisopropylamine, in similar manner to that described for the preparation of Example 34. The synthesis of (2S)-2-{(S)-[(4-bromophenyl)thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid was accomplished via addition of bromophenyllithium (generated in situ from 1,4-dibromobenzene and n-butyllithium) to the imine condensation product between thiazole 2-carboxayldehyde and 3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butylamine (L-leucine OBO ester, prepared according to the method described for Example 34), followed by ortho ester deprotection.

reactant | (2S)-2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid | BrC1=CC=C(C=C1)[C@@H](C=1SC=CN1)N[C@H](C(=O)O)CC(C)C | C16H19BrN2O2S
reactant | 1-aminocyclopropanecarbonitrile | NC1(CC1)C#N | C4H6N2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | bromophenyllithium | BrC1=C(C=CC=C1)[Li]
reactant | thiazole | S1C=NC=C1 | C3H3NS
reactant | 3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butylamine | CC(CC(C12OCC(CO1)(CO2)C)N)C | C11H21NO3
reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
product | 2-{(S)-[(4-bromophenyl)-thiazol-2-yl-methyl]-amino}-4-methylpentanoic acid (1-cyanocyclopropyl)-amide | C(#N)C1(CC1)NC(C(CC(C)C)N[C@H](C=1SC=CN1)C1=CC=C(C=C1)Br)=O | C20H23BrN4OS
